### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Localization): quotient categories that are localizations

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Localization/OfQuotient.lean [hunk 1]
```diff
@@ -0,0 +1,120 @@
...
+`functor r : C ⥤ quotient r`. If any relation `r f₀ f₁` between morphisms
+`f₀ : X ⟶ Y` and `f₁ : X ⟶ Y` can be "explained" by the use of a homotopy
+involving a cylinder object (i.e. there exists an object `cylinder : C`,
+a morphism `π : cylinder ⟶ X` in `W`, a morphism `φ : cylinder ⟶ Y` and two
+sections `i₀` and `i₁` to `π` such that `i₀ ≫ φ = f₀` and `i₁ ≫ φ = f₁`),
+then `functor r : C ⥤ quotient r` is a localization functor for `W`.
+We also deduce a slightly more general result involving
+a full and essentially surjective functor `L : C ⥤ D` instead of the quotient
+functor `functor r : C ⥤ quotient r`.
+(Dual results involving path objects are also obtained.)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/OfQuotient.lean]:
```suggestion
Dual results involving path objects are also obtained.
```

File: Mathlib/CategoryTheory/Localization/OfQuotient.lean [hunk 2]
```diff
@@ -0,0 +1,120 @@
...
+
+-/
+
+public section
+
+namespace CategoryTheory
+
+variable {C D : Type*} [Category C] [Category D]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/OfQuotient.lean]:
```suggestion
variable {C D : Type*} [Category* C] [Category* D]
```

File: Mathlib/CategoryTheory/Localization/OfQuotient.lean [hunk 3]
```diff
@@ -0,0 +1,120 @@
...
+  (hr : ∀ ⦃X Y : C⦄ (f₀ f₁ : X ⟶ Y) (_ : r f₀ f₁),
+    ∃ (cylinder : C) (i₀ i₁ : X ⟶ cylinder) (π : cylinder ⟶ X) (_hπ : W π)
+      (_hi₀ : i₀ ≫ π = 𝟙 X) (_hi₁ : i₁ ≫ π = 𝟙 X) (φ : cylinder ⟶ Y),
+      i₀ ≫ φ = f₀ ∧ i₁ ≫ φ = f₁)
+
+namespace isLocalization_functor
+
+variable {r W} in
+/-- Auxiliary definition for `Quotient.isLocalization_functor`. -/
+private def strictUniversalPropertyFixedTarget (E : Type*) [Category E] :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/OfQuotient.lean]:
```suggestion
private def strictUniversalPropertyFixedTarget (E : Type*) [Category* E] :
```

File: Mathlib/CategoryTheory/Localization/OfQuotient.lean [hunk 4]
```diff
@@ -0,0 +1,120 @@
...
+    Localization.StrictUniversalPropertyFixedTarget (functor r) W E where
+  inverts := hW
+  lift F hF := Quotient.lift r F (fun X Y f₀ f₁ hf ↦ by
+    obtain ⟨Cyl, i₀, i₁, π, hπ, hi₀, hi₁, φ, hφ₀, hφ₁⟩  := hr f₀ f₁ hf
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/OfQuotient.lean]:
```suggestion
    obtain ⟨Cyl, i₀, i₁, π, hπ, hi₀, hi₁, φ, hφ₀, hφ₁⟩ := hr f₀ f₁ hf
```

File: Mathlib/CategoryTheory/Localization/OfQuotient.lean [hunk 5]
```diff
@@ -0,0 +1,120 @@
...
+variable {C D : Type*} [Category C] [Category D]
+
+namespace Quotient
+
+variable (r : HomRel C) (W : MorphismProperty C)
+  (hW : W.IsInvertedBy (functor r))
+  (hr : ∀ ⦃X Y : C⦄ (f₀ f₁ : X ⟶ Y) (_ : r f₀ f₁),
+    ∃ (cylinder : C) (i₀ i₁ : X ⟶ cylinder) (π : cylinder ⟶ X) (_hπ : W π)
+      (_hi₀ : i₀ ≫ π = 𝟙 X) (_hi₁ : i₁ ≫ π = 𝟙 X) (φ : cylinder ⟶ Y),
+      i₀ ≫ φ = f₀ ∧ i₁ ≫ φ = f₁)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/OfQuotient.lean]: It would mean bringing in some extra imports to this file, but I feel it would be much more natural to state things in terms of the actual objects these are supposed to model, i.e.,
```lean
  (hr : ∀ ⦃X Y : C⦄ (f₀ f₁ : X ⟶ Y) (_ : r f₀ f₁),
    ∃ (cyl : HomotopicalAlgebra.Precylinder _), Nonempty (cyl.LeftHomotopy f₀ f₁) ∧ W cyl.π)
```
after
```
public import Mathlib.AlgebraicTopology.ModelCategory.LeftHomotopy
```

(and same for paths)

File: Mathlib/CategoryTheory/Quotient.lean [hunk 6]
```diff
@@ -358,4 +358,27 @@ instance faithful_whiskeringLeft_functor :
...
+instance [L.Full] : (Quotient.lift L.homRel L (by simp)).Full where
+  map_surjective := by
+    rintro ⟨X⟩ ⟨Y⟩ (f : L.obj X ⟶ L.obj Y)
+    obtain ⟨f, rfl⟩ := L.map_surjective f
+    exact ⟨(Quotient.functor _).map f, rfl⟩
+
+instance : (Quotient.lift L.homRel L (by simp)).Faithful where
+  map_injective := by
+    rintro ⟨X⟩ ⟨Y⟩ ⟨f⟩ ⟨g⟩ h
+    exact Quotient.sound _ h
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Quotient.lean]:
```suggestion
    rintro ⟨_⟩ ⟨_⟩ ⟨_⟩ ⟨_⟩ h
    exact Quotient.sound _ h
```
untested

**Comment by joelriou** [comment]
Thanks very much @robin-carlier for the suggestions! (I am sorry I have so much old code with `Category C` instead of `Category* C`...)

File: Mathlib/AlgebraicTopology/ModelCategory/PathObject.lean [hunk 7]
```diff
@@ -279,4 +280,48 @@ instance [IsFibrant A] (P P' : PathObject A) [P.IsGood] [P'.IsGood] :
 
 end PathObject
 
+/-- The opposite of a pre-path object is a precylinder object. -/
+@[simps]
+def PrepathObject.op {A : C} (P : PrepathObject A) :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/PathObject.lean]: we probably want all of the `op`/`unop`s to be `protected`

File: Mathlib/AlgebraicTopology/ModelCategory/PathObject.lean [hunk 8]
```diff
@@ -279,4 +280,48 @@ instance [IsFibrant A] (P P' : PathObject A) [P.IsGood] [P'.IsGood] :
...
+def PrepathObject.unop {A : Cᵒᵖ} (P : PrepathObject A) :
+    Precylinder A.unop where
+  I := Opposite.unop P.P
+  i₀ := P.p₀.unop
+  i₁ := P.p₁.unop
+  π := P.ι.unop
+  i₀_π := Quiver.Hom.op_inj (by simp)
+  i₁_π := Quiver.Hom.op_inj (by simp)
+
+/-- The opposite of a pre-path object is a precylinder object. -/
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/PathObject.lean]:
```suggestion
/-- The opposite of a precylinder object is a pre-path object. -/
```

File: Mathlib/AlgebraicTopology/ModelCategory/RightHomotopy.lean [hunk 9]
```diff
@@ -307,4 +308,40 @@ lemma mk_eq_mk_iff [ModelCategory C] [IsFibrant Y] (f g : X ⟶ Y) :
 
 end RightHomotopyClass
 
+/-- The left homotopy in the opposite category that is deduced from a right homotopy. -/
+@[simps]
+def PrepathObject.RightHomotopy.op
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/RightHomotopy.lean]: Ditto, should all of these be protected?

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
